US07504411B2
To a solution of (S)-1,4-di(t-butoxycarbonyl)-2-(4-((R)-3-methansulfonyloxy-pyrrolidino)phenyl)piperazine (877 mg, 1.64 mmol) in toluene (10 mL) was added pyrrolidine (0.64 mL, 8.19 mmol), and the resulting solution was heated at 90° C. for 8 h. After checking consumption of the starting material with TLC, the reaction mixture was partitioned between ethyl acetate and saturated sodium bicarbonate aqueous solution. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting 30-100% ethyl acetate-hexane and then 3-10% methanol-ethyl acetate to afford (S)-1,4-di(t-butoxycarbonyl)-2-(4-((S)-3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl)piperazine (479 mg, 58%) as a pale yellow powder.

reactant | (S)-1,4-di(t-butoxycarbonyl)-2-(4-((R)-3-methansulfonyloxy-pyrrolidino)phenyl)piperazine | 1.64 mmol, 877 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1C[C@@H](CC1)OS(=O)(=O)C | C25H39N3O7S
reactant | pyrrolidine | 8.19 mmol, 0.64 mL | N1CCCC1 | C4H9N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1,4-di(t-butoxycarbonyl)-2-(4-((S)-3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl)piperazine | 479 mg, 58% | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1C[C@H](CC1)N1CCCC1 | C28H44N4O4
